US03975540
0.25 G. of 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)-propionyl chloride (as prepared in Preparation 10 above) is dissolved in 4 ml. of diglyme and the solution cooled to -78°C. 3.5 Ml. of 0.045 molar lithium aluminum tri-tertiary butoxy hydride in diglyme is added, in 0.5 ml. portions over the course of 1 hour, to this solution. The mixture is warmed to room temperature and poured into water and extracted with ether. The extract is washed, dried and evaporated to give a crude product to which is added a solution of 0.106 g. of dianilinoethane and 0.072 g. of acetic acid in 5 ml. of methanol. The mixture is left for 1 hour than decanted from the insoluble product, α-(1,3-diphenyl-2-imidazolidinyl) 2-ethyl-5-oxo-5H-dibenzo[a,d]cycloheptene [a gum; nmr spectrum in deuterochloroform relative to tetramethylsilane: 1.47 (doublet, CHCH3), 5.77 (singlet, N-CH-N) acid 6.90 ppm (singlet, 10H, 11H). This compound is dissolved in 10 ml. of ether and the solution shaken with dilute hydrochloric acid. The ethereal layer is dried and evaporated to give 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propanal [a gum; nmr spectrum in deuterochloroform relative to tetramethylsilane: 0.98 (doublet, CHCH3), 3.78 (quartet, CHCH3), 7.02 (singlet, 10H, 11H) and 9.72 ppm (doublet, CHO); mass spectrum: 262 (M+) 233, 205] .

reactant | 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)-propionyl chloride | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C(=O)Cl)C)C=CC=C2 | C18H13ClO2
reactant | water | O | H2O
reactant | dianilinoethane | N(C1=CC=CC=C1)C(C)NC1=CC=CC=C1 | C14H16N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diglyme | COCCOCCOC | C6H14O3
solvent | methanol | CO | CH4O
product | 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propanal | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C=O)C)C=CC=C2 | C18H14O2
